### PR TITLE
[Merged by Bors] - feat: charts are structomorphisms

### PR DESCRIPTION
**Pull request by grunweg**
This is the `ChartedSpace` analogue of `contMDiffOn_extChartAt` and `contMDiffOn_extChartAt_symm`; proving this revealed a few gaps in other API. This may be useful for showing open subsets of a manifold are submanifolds.

--------------

- [x] depends on: #9238
- [x] depends on: #9632
- [x] depends on: #10083
- [x] depends on: #10082

### CODE REVIEW

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 1]
```diff
@@ -978,6 +978,18 @@ instance hasGroupoid_continuousGroupoid : HasGroupoid M (continuousGroupoid H) :
...
+  the restriction of two charts `e` and `e'` lies in `G`. -/
+theorem StructureGroupoid.trans_restricted {e e' : PartialHomeomorph M H} {G : StructureGroupoid H}
+    (he : e ∈ atlas H M) (he' : e' ∈ atlas H M)
+    [HasGroupoid M G] [ClosedUnderRestriction G] (s : Opens M) [Nonempty s] :
+    (e.subtypeRestr s).symm ≫ₕ e'.subtypeRestr s ∈ G := by
+  apply G.eq_on_source ?_ (e.subtypeRestr_symm_trans_subtypeRestr s e')
+  let hopen := e.isOpen_inter_preimage_symm s.2
+  refine G.locality fun x' hx' ↦ ⟨e.target ∩ e.symm ⁻¹' s, hopen, ?_, ?_ ⟩
+  · exact interior_subset (mem_of_mem_inter_right hx')
+  · exact closedUnderRestriction' (closedUnderRestriction' (G.compatible he he') hopen) hopen
```
Comment (winstonyin) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:991]:
```suggestion
    (e.subtypeRestr s).symm ≫ₕ e'.subtypeRestr s ∈ G := 
  G.eq_on_source (closedUnderRestriction' (G.compatible he he') (e.isOpen_inter_preimage_symm s.2))
    (e.subtypeRestr_symm_trans_subtypeRestr s e')
```
Golfed a bit.

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 2]
```diff
@@ -978,6 +978,18 @@ instance hasGroupoid_continuousGroupoid : HasGroupoid M (continuousGroupoid H) :
   simp only [and_self_iff]
 #align has_groupoid_continuous_groupoid hasGroupoid_continuousGroupoid
 
+/-- If `G` is closed under restriction, the transition function between
+  the restriction of two charts `e` and `e'` lies in `G`. -/
+theorem StructureGroupoid.trans_restricted {e e' : PartialHomeomorph M H} {G : StructureGroupoid H}
+    (he : e ∈ atlas H M) (he' : e' ∈ atlas H M)
+    [HasGroupoid M G] [ClosedUnderRestriction G] (s : Opens M) [Nonempty s] :
```
Comment (winstonyin) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:985]: Is it helpful to invoke type class inference in `[Nonempty s]`? `s` is some subset, which in general is unlikely to have an instance. My hunch is to write instead `(hs : Set.Nonempty s)`.

**Comment by winstonyin** [comment]
I only looked at and golfed one lemma so far, but I like the spirit of this PR! It'll likely come in handy when we define open submanifolds.

**Comment by winstonyin** [comment]
FYI, I made #9802 which renamed a couple things. Should be very quick to review and will lead to some renames in this PR as well.

File: Mathlib/Geometry/Manifold/ChartedSpace.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/ChartedSpace.lean:985]: Well, `subtypeRestr` requires an argument `[Nonempty s]`, which is why I'm also using this form...

**Comment by grunweg** [comment]
> I only looked at and golfed one lemma so far, but I like the spirit of this PR! It'll likely come in handy when we define open submanifolds.

I always thought this PR was not useful for that (as we'd extended charts), but I'm happy to be proven wrong :-) Your idea is to argue that an open submanifold is (locally) given as the image under a chart, i.e. a structomorphism, right? That could certainly work. (I don't know if it's the nicest approach, but we will see.)

File: Mathlib/Geometry/Manifold/ChartedSpace.lean (hunk 2 above)
Comment (winstonyin) [reply Mathlib/Geometry/Manifold/ChartedSpace.lean:985]: My doubts extend to `subtypeRestr`. In `ChartedSpace.lean`, the only place so far where it's used, you see `Nonempty` instance needing to be constructed manually, such as `@PartialHomeomorph.subtypeRestr _ _ _ _ (chartAt H x.1) s ⟨x⟩` in `[TopologicalSpace.Opens.instChartedSpace](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Manifold/ChartedSpace.html#TopologicalSpace.Opens.instChartedSpace)` and `haveI : Nonempty U := ⟨x⟩` in [TopologicalSpace.Opens.chartAt_inclusion_symm_eventuallyEq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Manifold/ChartedSpace.html#TopologicalSpace.Opens.chartAt_inclusion_symm_eventuallyEq). I think I'll open a PR changing the instance argument to and explicit one.

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 3]
```diff
@@ -1271,4 +1322,57 @@ def Structomorph.trans (e : Structomorph G M M') (e' : Structomorph G M' M'') :
       exact this }
 #align structomorph.trans Structomorph.trans
 
+/-- Restricting a chart to its source `s ⊆ M` yields a chart in the maximal atlas of `s`. -/
+-- xxx: better name? how does this differ from `restriction_in_maximalAtlas`?
```
Comment (winstonyin) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:1326]: One suggestion: `restriction_mem_maximalAtlas_subtype`

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 4]
```diff
@@ -1271,4 +1322,57 @@ def Structomorph.trans (e : Structomorph G M M') (e' : Structomorph G M' M'') :
...
+theorem StructureGroupoid.restriction_chart {e : PartialHomeomorph M H} (he : e ∈ atlas H M)
+    (hs : Set.Nonempty e.source) [HasGroupoid M G] [ClosedUnderRestriction G] :
```
Comment (winstonyin) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:1328]: Minor points: dot notation
```suggestion
    (hs : e.source.Nonempty) [HasGroupoid M G] [ClosedUnderRestriction G] :
```

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 5]
```diff
@@ -1271,4 +1322,57 @@ def Structomorph.trans (e : Structomorph G M M') (e' : Structomorph G M' M'') :
...
+    let s := { carrier := e.source, is_open' := e.open_source : Opens M };
+    let t := { carrier := e.target, is_open' := e.open_target  : Opens H };
```
Comment (winstonyin) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:1330]: Minor spacing:
```suggestion
    let t := { carrier := e.target, is_open' := e.open_target : Opens H };
```

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 6]
```diff
@@ -1271,4 +1322,57 @@ def Structomorph.trans (e : Structomorph G M M') (e' : Structomorph G M' M'') :
...
+  intro s t c' hc'
+  have : Nonempty s := nonempty_coe_sort.mpr hs
+  have : Nonempty t := nonempty_coe_sort.mpr (e.mapsTo.nonempty hs)
+  -- Choose `x ∈ t` so `c'` is the restriction of `chartAt H x`.
+  obtain ⟨x, hc'⟩ := Opens.chart_eq' hc'
+  -- As H has only one chart, `chartAt H x` is the identity: i.e., `c'` is the inclusion.
+  rw [hc', (chartAt_self_eq)]
+  -- Argue that our expression equals this chart above, at least on its source.
+  rw [PartialHomeomorph.subtypeRestr_def, PartialHomeomorph.trans_refl]
+  let goal := (e.toHomeomorphSourceTarget.toPartialHomeomorph ≫ₕ t.partialHomeomorphSubtypeCoe)
```
Comment (winstonyin) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:1342]:
```suggestion
  let goal := e.toHomeomorphSourceTarget.toPartialHomeomorph ≫ₕ t.partialHomeomorphSubtypeCoe
```

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 7]
```diff
@@ -1271,4 +1322,57 @@ def Structomorph.trans (e : Structomorph G M M') (e' : Structomorph G M' M'') :
...
+    [HasGroupoid M G] [ClosedUnderRestriction G] :
+    let s : Opens M := { carrier := e.source, is_open' := e.open_source }
+    let t : Opens H := { carrier := e.target, is_open' := e.open_target }
+    Structomorph G s t := by
+  intro s t
+  by_cases h : s = (∅ : Set M)
+  · have : IsEmpty s := isEmpty_coe_sort.mpr h
+    have : t = (∅ : Set H) := by
+      show e.target = ∅
+      exact e.image_source_eq_target ▸ (image_eq_empty.mpr h)
```
Comment (winstonyin) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:1358]:
```suggestion
      exact e.image_source_eq_target ▸ image_eq_empty.mpr h
```

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 8]
```diff
@@ -1271,4 +1322,57 @@ def Structomorph.trans (e : Structomorph G M M') (e' : Structomorph G M' M'') :
...
+    exact {
+      Homeomorph.empty with
+      -- `c'` cannot exist: it would be the restriction of `chartAt H x` at some `x ∈ t`.
+      mem_groupoid := fun _ c' _ ⟨_, ⟨x, _⟩, _⟩ ↦ (this.false x).elim
+    }
+  · exact {
+      e.toHomeomorphSourceTarget with
+      mem_groupoid := by
+        intro c c' hc hc'
+        show (c.symm).trans (e.toHomeomorphSourceTarget.toPartialHomeomorph.trans c') ∈ G
```
Comment (winstonyin) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:1369]:
```suggestion
        show c.symm.trans (e.toHomeomorphSourceTarget.toPartialHomeomorph.trans c') ∈ G
```

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 9]
```diff
@@ -1271,4 +1322,57 @@ def Structomorph.trans (e : Structomorph G M M') (e' : Structomorph G M' M'') :
...
+    let s : Opens M := { carrier := e.source, is_open' := e.open_source }
+    let t : Opens H := { carrier := e.target, is_open' := e.open_target }
+    Structomorph G s t := by
+  intro s t
+  by_cases h : s = (∅ : Set M)
+  · have : IsEmpty s := isEmpty_coe_sort.mpr h
+    have : t = (∅ : Set H) := by
+      show e.target = ∅
+      exact e.image_source_eq_target ▸ (image_eq_empty.mpr h)
+    have : IsEmpty t := isEmpty_coe_sort.mpr this
```
Comment (winstonyin) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:1359]: Golf a bit. Feel free to revert if you feel the original one was a clearer presentation.
```suggestion
    have : IsEmpty t := isEmpty_coe_sort.mpr
      (by convert e.image_source_eq_target ▸ image_eq_empty.mpr h)
```

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 10]
```diff
@@ -1271,4 +1322,57 @@ def Structomorph.trans (e : Structomorph G M M') (e' : Structomorph G M' M'') :
...
+    exact {
+      Homeomorph.empty with
+      -- `c'` cannot exist: it would be the restriction of `chartAt H x` at some `x ∈ t`.
+      mem_groupoid := fun _ c' _ ⟨_, ⟨x, _⟩, _⟩ ↦ (this.false x).elim
+    }
```
Comment (winstonyin) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:1364]: I'm not sure what the preferred style is, but coming from mathlib3 my expectation is no dangling curly brackets:
```suggestion
    exact { Homeomorph.empty with
      -- `c'` cannot exist: it would be the restriction of `chartAt H x` at some `x ∈ t`.
      mem_groupoid := fun _ c' _ ⟨_, ⟨x, _⟩, _⟩ ↦ (this.false x).elim }
```

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 11]
```diff
@@ -1271,4 +1322,57 @@ def Structomorph.trans (e : Structomorph G M M') (e' : Structomorph G M' M'') :
...
+      e.toHomeomorphSourceTarget with
+      mem_groupoid := by
+        intro c c' hc hc'
+        show (c.symm).trans (e.toHomeomorphSourceTarget.toPartialHomeomorph.trans c') ∈ G
+        -- The atlas of H on itself has only one chart, hence c' is the inclusion.
+        -- Then, compatibility of `G` *almost* yields our claim --- except that `e` is a chart
+        -- on `M` and `c` is one on `s`: we need to show that restricting `e` to `s` and composing
+        -- with `c'` yields a chart in the maximal atlas of `s`.
+        apply G.compatible_of_mem_maximalAtlas (G.subset_maximalAtlas hc)
+          (G.restriction_chart he (nmem_singleton_empty.mp h) c' hc')
```
Comment (winstonyin) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:1375]: Turns out the `show` is not needed to compile, but feel free to keep it if it's conceptually clearer.
```suggestion
        -- The atlas of H on itself has only one chart, hence c' is the inclusion.
        -- Then, compatibility of `G` *almost* yields our claim --- except that `e` is a chart
        -- on `M` and `c` is one on `s`: we need to show that restricting `e` to `s` and composing
        -- with `c'` yields a chart in the maximal atlas of `s`.
        exact G.compatible_of_mem_maximalAtlas (G.subset_maximalAtlas hc)
          (G.restriction_chart he (nmem_singleton_empty.mp h) c' hc')
```

**Comment by winstonyin** [comment]
I gave some minor style comments.

RFC: #9894 changes `[Nonempty s]` to an explicit `(hs : Nonempty s)` in `subtypeRestr` and removes `@... _ _ _ _` and `haveI := ...` when it is used.

File: Mathlib/Geometry/Manifold/ChartedSpace.lean (hunk 10 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/ChartedSpace.lean:1375]: I have adopted your suggestion. I don't see this mentioned in the style guide and would welcome a comment here.

**Comment by grunweg** [comment]
Thank you for all the comments! I have adapted the code accordingly (and find them quite a bit cleaner).

File: Mathlib/Geometry/Manifold/ChartedSpace.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/ChartedSpace.lean:995]: Sounds good. If that PR is approved, I'll update mine accordingly.

**Comment by sgouezel** [comment]
Can you merge master once #9894 is in?

**Comment by grunweg** [comment]
Let me also wait for #9632 (approved), #10083 and a decision on #10082 --- all of these are going to conflict with this one.

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 12]
```diff
@@ -1275,4 +1325,48 @@ def Structomorph.trans (e : Structomorph G M M') (e' : Structomorph G M' M'') :
...
+  · exact {
+      e.toHomeomorphSourceTarget with
+      mem_groupoid :=
+        -- The atlas of H on itself has only one chart, hence c' is the inclusion.
+        -- Then, compatibility of `G` *almost* yields our claim --- except that `e` is a chart
+        -- on `M` and `c` is one on `s`: we need to show that restricting `e` to `s` and composing
+        -- with `c'` yields a chart in the maximal atlas of `s`.
+        fun c c' hc hc' ↦ G.compatible_of_mem_maximalAtlas (G.subset_maximalAtlas hc)
+          (G.restriction_mem_maximalAtlas_subtype he h c' hc')
+  }
```
Comment (mcdoll) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:1364]:
```suggestion
  · exact { e.toHomeomorphSourceTarget with
      mem_groupoid :=
        -- The atlas of H on itself has only one chart, hence c' is the inclusion.
        -- Then, compatibility of `G` *almost* yields our claim --- except that `e` is a chart
        -- on `M` and `c` is one on `s`: we need to show that restricting `e` to `s` and composing
        -- with `c'` yields a chart in the maximal atlas of `s`.
        fun c c' hc hc' ↦ G.compatible_of_mem_maximalAtlas (G.subset_maximalAtlas hc)
          (G.restriction_mem_maximalAtlas_subtype he h c' hc') }
```

**Comment by grunweg** [comment]
awaiting-review

File: Mathlib/Geometry/Manifold/ChartedSpace.lean [hunk 13]
```diff
@@ -1275,4 +1325,47 @@ def Structomorph.trans (e : Structomorph G M M') (e' : Structomorph G M' M'') :
...
+  by_cases h : Nonempty e.source
+  · exact { e.toHomeomorphSourceTarget with
+      mem_groupoid :=
+        -- The atlas of H on itself has only one chart, hence c' is the inclusion.
+        -- Then, compatibility of `G` *almost* yields our claim --- except that `e` is a chart
+        -- on `M` and `c` is one on `s`: we need to show that restricting `e` to `s` and composing
+        -- with `c'` yields a chart in the maximal atlas of `s`.
+        fun c c' hc hc' ↦ G.compatible_of_mem_maximalAtlas (G.subset_maximalAtlas hc)
+          (G.restriction_mem_maximalAtlas_subtype he h c' hc')
+  }
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/ChartedSpace.lean:1363]:
```suggestion
          (G.restriction_mem_maximalAtlas_subtype he h c' hc') }
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by grunweg** [comment]
Thank you for the review.
bors r+
